US07482484B2
Step a: ethyl3-(3-hexanoyl-4-methoxyphenyl)propanoate
98 ml (0.7 mol) of hexanoyl chloride are added dropwise to a solution of 70 g (0.336 mol) of ethyl3-(4-methoxyphenyl)propanoate in 280 ml of dichloromethane. 89 g (0.67 mol) of aluminium chloride are then added in small amounts, and the mixture is heated for one hour at 50° C. The mixture is poured into cold water and extracted with ether. The organic phase is washed with sodium bicarbonate solution. After drying (Na2SO4) and evaporating off the solvents, a yellow liquid is obtained, and then distilled: Bp0.4 mmHg=160° C. (74 g; 72%);

reactant | hexanoyl chloride | 0.7 mol, 98 ml | C(CCCCC)(=O)Cl | C6H11ClO
reactant | ethyl3-(4-methoxyphenyl)propanoate | 0.336 mol, 70 g | C(C)OC(CCC1=CC=C(C=C1)OC)=O | C12H16O3
reactant | aluminium chloride | 0.67 mol, 89 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | dichloromethane | 280 ml | ClCCl | CH2Cl2
product | ethyl3-(3-hexanoyl-4-methoxyphenyl)propanoate | C(C)OC(CCC1=CC(=C(C=C1)OC)C(CCCCC)=O)=O | C18H26O4
